### PR TITLE
[Merged by Bors] - chore: adapt to multiple goal linter 4

### PR DESCRIPTION
**Pull request by adomani**
This PR was reduced by approximately half of its original size: the other half of this PR is now the content of #12560.

This PR was reduced by approximately half of its halved size: the other half of the halved PR is now the content of #12834.

A PR analogous to the merged PRs #12338, #12361 and #12372: reformatting proofs following the multiple goals linter of #12339.

This should be the last of the adaptations.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/ClassGroup.lean [hunk 1]
```diff
@@ -137,11 +137,11 @@ theorem ClassGroup.mk_eq_mk_of_coe_ideal {I J : (FractionalIdeal R⁰ <| Fractio
       sec_snd_ne_zero (R := R) le_rfl (x : FractionRing R), hJ⟩
   · rintro ⟨x, y, hx, hy, h⟩
     constructor
-    rw [mul_comm, ← Units.eq_iff, Units.val_mul, coe_toPrincipalIdeal]
-    convert
-      (mk'_mul_coeIdeal_eq_coeIdeal (FractionRing R) <| mem_nonZeroDivisors_of_ne_zero hy).2 h
-    apply (Ne.isUnit _).unit_spec
-    rwa [Ne, mk'_eq_zero_iff_eq_zero]
+    · rw [mul_comm, ← Units.eq_iff, Units.val_mul, coe_toPrincipalIdeal]
```
Comment (sgouezel) [inline Mathlib/RingTheory/ClassGroup.lean:140]: This one looks pretty bad, since there are two goals, the second of which is data and is constructed while proving the first goal, so in the end there is only one goal. Maybe change it to
```lean
    have : IsUnit (mk' (FractionRing R) x ⟨y, mem_nonZeroDivisors_of_ne_zero hy⟩) := by
      simpa only [isUnit_iff_ne_zero, ne_eq, mk'_eq_zero_iff_eq_zero] using hx
    refine ⟨this.unit, ?_⟩
    rw [mul_comm, ← Units.eq_iff, Units.val_mul, coe_toPrincipalIdeal]
    convert
      (mk'_mul_coeIdeal_eq_coeIdeal (FractionRing R) <| mem_nonZeroDivisors_of_ne_zero hy).2 h
```
which is less magical, but not really longer.

Comment (adomani) [reply Mathlib/RingTheory/ClassGroup.lean]: Sébastien, thank you for your comment!  I used your version.

While preparing the PR, I tried to be as minimal as possible in the changes, and I (almost) always only changed `·` and indents.

File: Mathlib/RingTheory/WittVector/Verschiebung.lean [hunk 2]
```diff
@@ -137,7 +137,10 @@ theorem verschiebung_isPoly : IsPoly p fun R _Rcr => @verschiebung p R hp _Rcr :
 /-- verschiebung is a natural transformation -/
 @[simp]
 theorem map_verschiebung (f : R →+* S) (x : 𝕎 R) :
-    map f (verschiebung x) = verschiebung (map f x) := by ext ⟨-, -⟩; exact f.map_zero; rfl
+    map f (verschiebung x) = verschiebung (map f x) := by
+      ext ⟨-, -⟩
```
Comment (loefflerd) [inline Mathlib/RingTheory/WittVector/Verschiebung.lean:141]: Indentation is non-standard here

File: Mathlib/RingTheory/Valuation/ValuationRing.lean [hunk 3]
```diff
@@ -367,9 +367,8 @@ instance (priority := 100) [LocalRing R] [IsBezout R] : ValuationRing R := by
   have : x * a + y * b = 1 := by
     apply mul_left_injective₀ h; convert e' using 1 <;> ring
   cases' LocalRing.isUnit_or_isUnit_of_add_one this with h' h'
```
Comment (loefflerd) [inline Mathlib/RingTheory/Valuation/ValuationRing.lean:369]: Does
```suggestion
  cases' LocalRing.isUnit_or_isUnit_of_add_one this with h' h' <;> [left, right]
```
work?

File: Mathlib/Topology/Baire/CompleteMetrizable.lean [hunk 4]
```diff
@@ -43,17 +43,17 @@ instance (priority := 100) BaireSpace.of_pseudoEMetricSpace_completeSpace : Bair
...
-        _ ≤ min (min (δ / 2) r) (B (n + 1)) + δ / 2 := add_le_add hz (le_of_lt xy)
-        _ ≤ δ / 2 + δ / 2 := (add_le_add (le_trans (min_le_left _ _) (min_le_left _ _)) le_rfl)
-        _ = δ := ENNReal.add_halves δ
+    · show 0 < min (min (δ / 2) r) (B (n + 1))
+      exact lt_min (lt_min (ENNReal.half_pos δpos) rpos) (Bpos (n + 1))
+    · show min (min (δ / 2) r) (B (n + 1)) ≤ B (n + 1)
+      exact min_le_right _ _
+    · show z ∈ closedBall x δ
+      exact
+        calc
```
Comment (loefflerd) [inline Mathlib/Topology/Baire/CompleteMetrizable.lean:52]: `exact calc` is synonymous with `calc` isn't it?

File: Mathlib/Topology/Homotopy/HomotopyGroup.lean [hunk 5]
```diff
@@ -350,7 +350,9 @@ def transAt (i : N) (f g : Ω^ N X x) : Ω^ N X x :=
       dsimp only [Path.trans, fromLoop, Path.coe_mk_mk, Function.comp_apply, mk_apply,
         ContinuousMap.comp_apply, toContinuousMap_apply, funSplitAt_apply,
         ContinuousMap.uncurry_apply, ContinuousMap.coe_mk, Function.uncurry_apply_pair]
-      split_ifs; change f _ = _; swap; change g _ = _
+      split_ifs
+      on_goal 1 => change f _ = _
+      on_goal 2 => change g _ = _
```
Comment (loefflerd) [inline Mathlib/Topology/Homotopy/HomotopyGroup.lean:355]: Maybe
```suggestion
      · show f _ = _ by congr 1
      · show g _ = _ by congr 1
```
and kill the last line

**Review by loefflerd — COMMENTED** [review]
I left a few minor comments. Otherwise LGTM.

File: Mathlib/RingTheory/ClassGroup.lean [hunk 6]
```diff
@@ -136,12 +136,12 @@ theorem ClassGroup.mk_eq_mk_of_coe_ideal {I J : (FractionalIdeal R⁰ <| Fractio
     exact ⟨_, _, sec_fst_ne_zero (R := R) le_rfl x.ne_zero,
       sec_snd_ne_zero (R := R) le_rfl (x : FractionRing R), hJ⟩
   · rintro ⟨x, y, hx, hy, h⟩
-    constructor
+    have : IsUnit (mk' (FractionRing R) x ⟨y, mem_nonZeroDivisors_of_ne_zero hy⟩) := by
```
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/RingTheory/ClassGroup.lean:139]: This one is Sébastien's suggestion from above: neither `apply` nor `exact` work.  I assume it is something to do with typeclasses, but I have not investigated.

File: Mathlib/RingTheory/Valuation/ValuationRing.lean (hunk 3 above)
Comment (adomani) [reply Mathlib/RingTheory/Valuation/ValuationRing.lean]: Yes, I switched to that.

File: Mathlib/RingTheory/WittVector/Verschiebung.lean (hunk 2 above)
Comment (adomani) [reply Mathlib/RingTheory/WittVector/Verschiebung.lean]: Good catch: unindented!

File: Mathlib/Topology/Baire/CompleteMetrizable.lean (hunk 4 above)
Comment (adomani) [reply Mathlib/Topology/Baire/CompleteMetrizable.lean]: I am not sure if it is exactly a synonym, but here it worked just as well.

File: Mathlib/Topology/Homotopy/HomotopyGroup.lean (hunk 5 above)
Comment (adomani) [reply Mathlib/Topology/Homotopy/HomotopyGroup.lean]: It works, and there is no need for the `by`s.

**Review by adomani — COMMENTED** [review]
David, thank you very much for your review!  I accepted/commented on your suggestions.

File: Mathlib/Topology/Homotopy/HomotopyGroup.lean [hunk 7]
```diff
@@ -350,8 +350,9 @@ def transAt (i : N) (f g : Ω^ N X x) : Ω^ N X x :=
       dsimp only [Path.trans, fromLoop, Path.coe_mk_mk, Function.comp_apply, mk_apply,
         ContinuousMap.comp_apply, toContinuousMap_apply, funSplitAt_apply,
         ContinuousMap.uncurry_apply, ContinuousMap.coe_mk, Function.uncurry_apply_pair]
-      split_ifs; change f _ = _; swap; change g _ = _
-      all_goals congr 1)
+      split_ifs
+      ·show f _ = _; congr 1
```
Comment (loefflerd) [inline Mathlib/Topology/Homotopy/HomotopyGroup.lean:354]:
```suggestion
      · show f _ = _; congr 1
```

**Review by loefflerd — COMMENTED** [review]
Utterly trivial follow-up:

File: Mathlib/Topology/Homotopy/HomotopyGroup.lean (hunk 7 above)
Comment (adomani) [reply Mathlib/Topology/Homotopy/HomotopyGroup.lean:354]: :facepalm:

File: Mathlib/Topology/Sheaves/LocalPredicate.lean [hunk 8]
```diff
@@ -287,16 +287,16 @@ theorem stalkToFiber_injective (P : LocalPredicate T) (x : X)
...
-  dsimp
-  simp only [stalkToFiber, Types.Colimit.ι_desc_apply'] at h
-  specialize w (unop U) (unop V) fU hU fV hV h
-  rcases w with ⟨W, iU, iV, w⟩
-  -- and put it back together again in the correct order.
-  refine' ⟨op W, fun w => fU (iU w : (unop U).1), P.res _ _ hU, _⟩
-  · rcases W with ⟨W, m⟩
-    exact iU
-  · exact ⟨colimit_sound iU.op (Subtype.eq rfl), colimit_sound iV.op (Subtype.eq (funext w).symm)⟩
+  · -- Decompose everything into its constituent parts:
```
Comment (sgouezel) [inline Mathlib/Topology/Sheaves/LocalPredicate.lean:290]: I don't understand this change: it looks to me that there is only one goal, so no need for the focusing dot. Wrong positive of the linter, or is something fishy going on?

**Review by sgouezel — COMMENTED** [review]
This looks great, thanks!
bors d+

File: Mathlib/Topology/Sheaves/LocalPredicate.lean (hunk 8 above)
Comment (adomani) [reply Mathlib/Topology/Sheaves/LocalPredicate.lean]: You are right, this change does not belong.

This is not even a false positive: at some point, I messed up a git merge and ever since this part of the proof has always created conflicts.  The linter does not flag it and should have fixed this now!

File: Mathlib/Topology/Homotopy/HomotopyGroup.lean [hunk 9]
```diff
@@ -546,12 +547,14 @@ theorem one_def [Nonempty N] : (1 : HomotopyGroup N X x) = ⟦const⟧ :=
...
-  rw [transAt_indep _ q, ← fromLoop_trans_toLoop]; apply Quotient.sound; rfl
+  rw [transAt_indep _ q, ← fromLoop_trans_toLoop]
+  · apply Quotient.sound; rfl
 #align homotopy_group.mul_spec HomotopyGroup.mul_spec
 
 /-- Characterization of multiplicative inverse -/
 theorem inv_spec [Nonempty N] {i} {p : Ω^ N X x} : ((⟦p⟧)⁻¹ : HomotopyGroup N X x) = ⟦symmAt i p⟧ :=
-  by rw [symmAt_indep _ p, ← fromLoop_symm_toLoop]; apply Quotient.sound; rfl
+  by rw [symmAt_indep _ p, ← fromLoop_symm_toLoop]
+     · apply Quotient.sound; rfl
```
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Topology/Homotopy/HomotopyGroup.lean]: Done!

File: Mathlib/Topology/Homotopy/HomotopyGroup.lean [hunk 10]
```diff
@@ -546,12 +547,14 @@ theorem one_def [Nonempty N] : (1 : HomotopyGroup N X x) = ⟦const⟧ :=
 theorem mul_spec [Nonempty N] {i} {p q : Ω^ N X x} :
     -- Porting note (#11215): TODO: introduce `HomotopyGroup.mk` and remove defeq abuse.
     ((· * ·) : _ → _ → HomotopyGroup N X x) ⟦p⟧ ⟦q⟧ = ⟦transAt i q p⟧ := by
-  rw [transAt_indep _ q, ← fromLoop_trans_toLoop]; apply Quotient.sound; rfl
+  rw [transAt_indep _ q, ← fromLoop_trans_toLoop]
+  · apply Quotient.sound; rfl
```
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Topology/Homotopy/HomotopyGroup.lean]: Thanks!

**Review by adomani — COMMENTED** [review]
Sébastien, thank you very much for your suggestions!  I incorporated them all and explained the one that was not actually supposed to be there.
